US07700594B2
To a solution of 7-cyclohexylimidazo[5,1-f][1,2,4]triazin-4(3H)-one (130 mg, 0.6 mmol) in DMF (0.6 mL) was added N-iodosuccinimide (700 mg, 0.003 mol) and the reaction mixture stirred at 55° C. for 20 h. After this time the mixture was diluted with water (50 mL) and extracted with EtOAc (4×40 mL). The organic extracts were washed with water (4×40 mL), treated with sodium thiosulfate and brine, dried over Na2SO4 and concentrated in vacuo to afford 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4(3H)-one. 1H NMR (400 MHz-DMSO-d6) δ 1.34-1.37 (m, 3H), 1.52-1.56 (m, 2H), 1.76-1.88 (m, 5H), 3.06-3.08 (m, 1H) 7.87 (s, 1H) 11.78 (s, 1H); MS (ES+): m/z: 344.95 (100) [MH+]. HPLC: tR=2.95 min (OpenLynx: polar—5 min).

reactant | 7-cyclohexylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.6 mmol, 130 mg | C1(CCCCC1)C1=NC=C2C(NC=NN21)=O | C11H14N4O
reactant | N-iodosuccinimide | 0.003 mol, 700 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCCC1)C1=NC(=C2C(NC=NN21)=O)I | C11H13IN4O
